US09238639B2
H) Methyl(4-chloro-7-fluoro-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of tri-n-butylphosphine (0.249 mL), methyl(4-chloro-7-fluoro-6-hydroxy-1-benzothiophen-3-yl)acetate (109.7 mg), (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol (86 mg) and THF (4.0 mL) was added ADDP (202 mg) at room temperature. The mixture was stirred at room temperature under nitrogen atmosphere for 1 h. The mixture was concentrated. To the residue was added IPE and the precipitate was filtered off. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (155 mg).

reactant | tri-n-butylphosphine | 0.249 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | methyl(4-chloro-7-fluoro-6-hydroxy-1-benzothiophen-3-yl)acetate | 109.7 mg | COC(CC1=CSC2=C1C(=CC(=C2F)O)Cl)=O | C11H8ClFO3S
reactant | (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol | 86 mg | CN1N=C(C=C1CO)C(F)(F)F | C6H7F3N2O
reactant | ADDP | 202 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | Methyl(4-chloro-7-fluoro-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 155 mg | COC(CC1=CSC2=C1C(=CC(=C2F)OCC2=CC(=NN2C)C(F)(F)F)Cl)=O | C17H13ClF4N2O3S
